US07790727B2
2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic acid (3-piperazin-1-yl-phenyl)-amide Hydrochloride
The compound was prepared as described for Example 28 by reaction of 4-(5-aminophenyl)-piperazine-1-carboxylic acid tert-butyl ester with commercially available 2,2-Difluorobenzo[1,3]dioxole-4-sulfonyl chloride followed by deprotection under acidic conditions.

reactant | 4-(5-aminophenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC(=C1)N | C15H23N3O2
reactant | 2,2-Difluorobenzo[1,3]dioxole-4-sulfonyl chloride | FC1(OC2=C(O1)C=CC=C2S(=O)(=O)Cl)F | C7H3ClF2O4S
product | 2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic acid (3-piperazin-1-yl-phenyl)-amide Hydrochloride | Cl.N1(CCNCC1)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=2OC(OC21)(F)F | InChI=1S/C17H17F2N3O4S.ClH/c18-17(19)25-14-5-2-6-15(16(14)26-17)27(23,24)21-12-3-1-4-13(11-12)22-9-7-20-8-10-22;/h1-6,11,20-21H,7-10H2;1H
